Design2_tests
*SPICE Netlist generated by Advanced Sim server on 2025-02-07 13:48:34
.options MixedSimGenerated

*Schematic Netlist:
V3 Net3_1 0 5V AC 1 0
V5V Net5V_1 0 5 AC 1 0
V5V_ Net5V__1 0 5 AC 1 0
V-5V 0 Net-5V_2 5 AC 1 0
V-5V_ 0 Net-5V__2 5 AC 1 0
CC1 0 NetC1_2 0.1uF
RR1 NetR1_1 NetR1_2 4K TC1=0 TC2=0
RR3 NetR3_1 NetR1_1 10K TC1=0 TC2=0
RR4 NetR1_2 NetC1_2 10K TC1=0 TC2=0
RR5 NetR5_1 NetR5_2 10K TC1=0 TC2=0
RR6 NetR5_2 0 4K TC1=0 TC2=0
RR? 0 NetR?_2 10K TC1=0 TC2=0
RRx Net3_1 NetR3_1 10K TC1=0 TC2=0
RRy 0 NetR3_1 10K TC1=0 TC2=0
XU1A NetC1_2 NetR?_2 Net5V_1 Net-5V_2 NetR?_2 LF353
XU2A NetR5_2 NetR1_1 Net5V__1 Net-5V__2 NetR1_2 LF353
VV_pwm1 NetR5_1 0 DC 5 PULSE(0 5 100n 10n 10n 100u 200u 0) AC 1 0

.PROBE {V(NetR?_2)} =PLOT(1) =AXIS(1) =UNITS(V)
.PROBE {V(NetR5_1)} =PLOT(1) =AXIS(1) =UNITS(V)
.PROBE {V(NetR3_1)} =PLOT(1) =AXIS(1) =UNITS(V)
.PROBE {V(NetR1_2)} =PLOT(1) =AXIS(1) =UNITS(V)
.PROBE {V(NetC1_2)} =PLOT(1) =AXIS(1) =UNITS(V)

*Selected Circuit Analyses:
.TRAN 20u 20m 0 20u

*Models and Subcircuits:
*//////////////////////////////////////////////////////////
*LF353 Wide Bandwidth Dual JFET-Input OP-AMP MACRO-MODEL
*//////////////////////////////////////////////////////////
*
* connections:    non-inverting input
*                 |   inverting input
*                 |   |   positive power supply
*                 |   |   |   negative power supply
*                 |   |   |   |   output
*                 |   |   |   |   |
*                 |   |   |   |   |
.SUBCKT LF353     1   2  99  50  28
*
* PINOUT ORDER +IN -IN V+ V- OUT
*
*
*Features:
*Low supply current =                1.8mA
*Wide bandwidth =                     4MHz
*High slew rate =                   13V/uS
*Low offset voltage =                 10mV
*
*NOTE: Model is for single device only and simulated
*      supply current is 1/2 of total device current.
*
****************INPUT STAGE**************
*
IOS 2 1 25P
*^Input offset current
R1 1 3 1E12
R2 3 2 1E12
I1 99 4 100U
J1 5 2 4 JX
J2 6 7 4 JX
R3 5 50 20K
R4 6 50 20K
*Fp2=12 MHz
C4 5 6 3.31573E-13
*
***********COMMON MODE EFFECT***********
*
I2 99 50 1.7MA
*^Quiescent supply current
EOS 7 1 POLY(1) 16 49 5E-3 1
*Input offset voltage.^
R8 99 49 50K
R9 49 50 50K
*
*********OUTPUT VOLTAGE LIMITING********
V2 99 8 2.13
D1 9 8 DX
D2 10 9 DX
V3 10 50 2.13
*
**************SECOND STAGE**************
*
EH 99 98 99 49 1
F1 9 98 POLY(1) VA3 0 0 0 1.0985E7
G1 98 9 5 6 1E-3
R5 98 9 100MEG
VA3 9 11 0
*Fp1=40.3 HZ
C3 98 11 39.493P
*
***************POLE STAGE***************
*
*Fp3=42 MHz
G3 98 15 9 49 1E-6
R12 98 15 1MEG
C5 98 15 3.7894E-15
*
*********COMMON-MODE ZERO STAGE*********
*
G4 98 16 3 49 1E-8
L2 98 17 31.831M
R13 17 16 1K
*
**************OUTPUT STAGE**************
*
F6  99 50 VA7 1
F5  99 23 VA8 1
D5  21 23 DX
VA7 99 21 0
D6  23 99 DX
E1  99 26 99 15 1
VA8 26 27 0
R16 27 28 35
V5  28 25 0.1V
D4  25 15 DX
V4  24 28 0.1V
D3  15 24 DX
*
***************MODELS USED**************
*
.MODEL DX D(IS=1E-15)
.MODEL JX PJF(BETA=1.25E-5 VTO=-2.00 IS=50E-12)
*
.ENDS

.END